datasets/RMG-dataset.csv
rxn,Ea
[C:0]([c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]([C:5]([H:13])([H:14])[H:15])[c:6]([H:16])[c:7]1[H:17])([H:8])([H:9])[H:10].[O:18][O:19]>>[C:0]([c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]([C:5]([H:13])([H:14])[H:15])[c:6]([H:16])[c:7]1[H:17])([H:9])[H:10].[H:8][O:18][O:19],192.648096
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5]([C:6]([C:7]([H:12])([H:13])[H:14])[S:8][H:15])([H:9])([H:10])[H:11]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:6]([C:5]([H:9])([H:10])[H:11])([C:7]([H:12])([H:13])[H:14])[S:8][H:15],64.4336
[C:0](=[N:1][O:2][H:5])([H:3])[H:4].[O:6]>>[C:0](=[N:1][O:2])([H:3])[H:4].[H:5][O:6],103.596
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[C:21]([H:22])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[C:21]([H:22])([H:23])[H:24])[H:11],27.447
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([C:4]([H:14])([H:15])[H:16])([O:5][O:6][H:17])[H:13])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])=[C:3]([C:4]([H:14])([H:15])[H:16])[H:13])([H:7])([H:8])[H:9].[O:5][O:6][H:17],64.4336
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[S:4])[H:12])[H:8])([H:5])([H:6])[H:7].[C:13]([C:14]([C:15](=[S:16])[H:21])[H:20])([H:17])([H:18])[H:19]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3](=[S:4])[H:12])([H:5])([H:6])[H:7].[H:8][C:14]([C:13]([H:17])([H:18])[H:19])([C:15](=[S:16])[H:21])[H:20],27.6144
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[O:15][H:16]>>[C:0]([c:1]1[c:2]([H:10])[c:3][c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[H:11][O:15][H:16],6.30825864
[C:0](=[C:1]([C:2]#[C:3][H:6])[H:5])[H:4].[O:7][H:8]>>[C:0](#[C:1][C:2]#[C:3][H:6])[H:4].[H:5][O:7][H:8],0.0
[C:0]1([H:3])([H:4])[S:1][S:2]1.[H:5]>>[C:0]1([H:4])[S:1][S:2]1.[H:3][H:5],24.56008
[C:0](=[C:1]([C:2]([C:3](=[C:4]([C:5]([C:6]([H:15])([H:16])[H:17])[H:14])[H:13])[H:12])([H:10])[H:11])[H:9])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])[C:2]([H:10])([H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]1([C:6]([H:15])([H:16])[H:17])[H:14],99.3282
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[S:7]=[C:8]([C:9]([S:10][H:13])[H:12])[H:11]>>[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[H:6][C:9]([C:8](=[S:7])[H:11])([S:10][H:13])[H:12],184.263
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[c:6]1[c:7]([H:12])[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]1[H:16]>>[C:0](=[C:1][C:2]#[C:3][H:5])([H:4])[c:6]1[c:7]([H:12])[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]1[H:16],-11.7989
[C:0](=[C:1][C:2](=[S:3])[H:6])([H:4])[H:5].[S:7]([S:8][H:10])[H:9]>>[C:0](=[C:1]([C:2](=[S:3])[H:6])[H:9])([H:4])[H:5].[S:7][S:8][H:10],25.104
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:14])([H:12])[H:13])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8].[O:15][O:16]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:14])([H:12])[H:13])([H:11])[O:15][O:16])([H:9])[H:10])([H:6])([H:7])[H:8],-2.244716
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])[c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])([H:9])([H:10])[H:11].[S:20]([S:21][H:23])[H:22]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])[H:22])([H:9])([H:10])[H:11].[S:20][S:21][H:23],-14.2256
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]([C:15](=[C:16]([H:23])[H:24])[H:22])([H:20])[H:21])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:20])[H:5].[C:12](=[C:13]([C:14]([C:15](=[C:16]([H:23])[H:24])[H:22])[H:21])[H:19])([H:17])[H:18],4.184
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])[H:12])([H:9])([H:10])[H:11].[C:21]([C:22]([C:23]([H:28])([H:29])[H:30])[H:27])([H:24])([H:25])[H:26]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])([H:9])([H:10])[H:11].[H:12][C:22]([C:21]([H:24])([H:25])[H:26])([C:23]([H:28])([H:29])[H:30])[H:27],12.552
[C:0]([c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]([C:5]([H:13])([H:14])[H:15])[c:6]([H:16])[c:7]1[H:17])([H:8])([H:9])[H:10].[O:18][O:19][H:20]>>[C:0]([c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]([C:5]([H:13])([H:14])[H:15])[c:6]([H:16])[c:7]1[H:17])([H:9])[H:10].[H:8][O:18][O:19][H:20],61.44204
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9])[H:8])([H:6])[H:7].[S:16]=[C:17]([C:18]([S:19][H:22])[H:21])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([H:14])[H:15])[H:13])[H:8])([H:6])[H:7].[H:9][C:18]([C:17](=[S:16])[H:20])([S:19][H:22])[H:21],125.604
